US08202879B2
In a mixture of 1 mL of tetrahydrofuran and 0.1 mL of water were dissolved 40 mg of 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-formylquinazoline (IV-1) and 13 mg of 1-amino-pyrrolidine hydrochloride, followed by a reaction at room temperature overnight. After the reaction, aqueous saturated sodium bicarbonate solution was added, followed by extraction with ethyl acetate. The organic layer was dehydrated by passing through Presep (registered trademark), and the filtrate was concentrated. The concentrated residue was purified by chromatography (eluting with hexane:ethyl acetate=2:1→1:1) using an amino column to obtain 38 mg of 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(pyrrolidin-1-yliminomethyl)quinazoline (IX-1) as a yellow solid.

reactant | 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-formylquinazoline | 40 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C=O | C22H15ClFN3O2
reactant | 1-amino-pyrrolidine hydrochloride | 13 mg | Cl.NN1CCCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | 0.1 mL | O | H2O
product | 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(pyrrolidin-1-yliminomethyl)quinazoline | 38 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C=NN1CCCC1 | C26H23ClFN5O
